US04565817
10.0 g. of 1-chloro-5-(theophyllin-7-yl)-pentane, 2.44 g. of potassium cyanide and 40 cm3 of dimethylformamide are reacted according to Example 13c and 7.92 g. (76.5% yield) of 7-(5-cyano-pentan-1-yl)-theophylline are obtained, m.p.: 86°-88° C.

reactant | 1-chloro-5-(theophyllin-7-yl)-pentane | ClCCCCCN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C12H17ClN4O2
reactant | potassium cyanide | [C-]#N.[K+]
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | 7-(5-cyano-pentan-1-yl)-theophylline | 76.5% yield | C(#N)CCCCCN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C13H17N5O2
